US07241785B2
A mixture of 3-benzyloxy-1-methyl-1H-pyrazol-4-ylacetonitrile (12.0 g), 4N aqueous sodium hydroxide solution (100 ml), tetrahydrofuran (100 ml) and ethanol (100 ml) was refluxed for 21 hrs. After cooling, the mixture was neutralized with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. A mixture of the residue, methyl iodide (4.95 ml), potassium carbonate (14.7 g) and N,N-dimethylformamide (100 ml) was stirred overnight at room temperature. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-benzyloxy-1-methyl-1H-pyrazol-4-ylacetate (12.2 g, yield 88%) was obtained as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | 3-benzyloxy-1-methyl-1H-pyrazol-4-ylacetonitrile | 12.0 g | C(C1=CC=CC=C1)OC1=NN(C=C1CC#N)C | C13H13N3O
reactant | sodium hydroxide | 4N, 100 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl 3-benzyloxy-1-methyl-1H-pyrazol-4-ylacetate | 12.2 g, yield 88% | C(C1=CC=CC=C1)OC1=NN(C=C1CC(=O)OC)C | C14H16N2O3
